US08877782B2
6-{[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-N-isopropyl-nicotinamide
As described for example 168, 6-{[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-nicotinic acid methyl ester (85 mg, 0.25 mmol) was converted using isopropylamine instead of 2,2,2-trifluoroethylamine to the title compound (30 mg, 33%) which was obtained as an off white foam. MS: m/e=369.1 [M+H]+.

reactant | 6-{[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-nicotinic acid methyl ester | 0.25 mmol, 85 mg | COC(C1=CN=C(C=C1)NCC=1C(=NOC1C)C1=CC(=CC=C1)F)=O | C18H16FN3O3
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 6-{[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-N-isopropyl-nicotinamide | 30 mg, 33% | FC=1C=C(C=CC1)C1=NOC(=C1CNC1=NC=C(C(=O)NC(C)C)C=C1)C | C20H21FN4O2
